US07858632B2
Methyl magnesium chloride (49.9 ml, 150 mmol, 3 M solution in THF) in 100 ml THF was cooled to zero degrees C, and N-(4-Acetyl-3-methoxy-phenyl)-acetamide (14.1 g, 68 mmol) in 200 ml THF was added via cannula to over 25 minutes. The reaction mixture was stirred and allowed to warm to room temperature over 2.5 hours. The reaction was quenched by addition of 1 N NH4Cl and extracted with EtOAc. The combined organic layers were washed with 1 N ammonium chloride, brine, dried over MgSO4, and concentrated under reduced pressure to afford N-[4-(1-Hydroxy-1-methyl-ethyl)-3-methoxy-phenyl]-acetamide (16.4 g, 100% ).

reactant | Methyl magnesium chloride | 150 mmol, 3 M, 49.9 ml | C[Mg]Cl
reactant | N-(4-Acetyl-3-methoxy-phenyl)-acetamide | 68 mmol, 14.1 g | C(C)(=O)C1=C(C=C(C=C1)NC(C)=O)OC | C11H13NO3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | N-[4-(1-Hydroxy-1-methyl-ethyl)-3-methoxy-phenyl]-acetamide | 16.4 g, 100% | OC(C)(C)C1=C(C=C(C=C1)NC(C)=O)OC | C12H17NO3
